* source DESIGN1
U_DSTM1         STIM(1,1) $G_DPWR_DSTM1 $G_DGND_DSTM1 N00468 CDN_IO_APP
+  IO_LEVEL=0 ROUT=10 VOH=5 VOL=0 
+ 0 0
+ +0 1
+REPEAT FOREVER
+ +0.5u 0
+  +0.5u 1
+ ENDREPEAT
U_DSTM2         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00557 
+ IO_STM
+ IO_LEVEL=0
+  0s 0  
+ 1us 1  
+ 2us 1  
+ 3us 0 
+ 4us 1  
X_U3         N00582 N00468 N00586 M_UN0001 $G_DPWR $G_DGND DFF
X_U4         N00586 N00468 N00590 M_UN0002 $G_DPWR $G_DGND DFF
X_U5         N00590 N00468 N01405 M_UN0003 $G_DPWR $G_DGND DFF
X_U6         N00557 N00468 N00582 M_UN0004 $G_DPWR $G_DGND DFF
